US07884207B2
A solution of ethoxyacetyl chloride (4.38 g, 35.7 mmol) in dichloromethane (50 mL) was added to a 0° C. solution of 8-{[(3-aminoquinolin-4-yl)amino]methyl}-1,4-dioxaspiro[4.5]decan-8-ol (10.7 g, 32.5 mmol) and triethylamine (4.98 mL, 35.7 mmol) in dichloromethane (250 mL). After one hour, the solution was allowed to warm to rt and stir for 2 d. More ethoxyacetyl chloride (0.15 equivalent) was added. After two hours, the solution was transferred to a separatory funnel and washed with water (200 mL). The organic layer was dried with Na2SO4, filtered, and concentrated under reduced pressure to yield an orange solid. The solid was dissolved in ethanol (150 mL) and triethylamine (13.6 mL, 97.4 mmol) was added. The solution was heated at reflux for 16 h. The volatiles were removed under reduced pressure to yield a brown oil that was crystallized from isopropanol to yield 8-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-1,4-dioxaspiro[4.5]decan-8-ol as off-white crystals (2.50 g) and a second crop (1.50 g) of crystals. A third crop (4.91 g) was isolated after recrystallization of the mother liquor from ethyl acetate. A total of 8.91 g (69%) of 8-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-1,4-dioxaspiro[4.5]decan-8-ol was isolated.

reactant | ethoxyacetyl chloride | 35.7 mmol, 4.38 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 8-{[(3-aminoquinolin-4-yl)amino]methyl}-1,4-dioxaspiro[4.5]decan-8-ol | 32.5 mmol, 10.7 g | NC=1C=NC2=CC=CC=C2C1NCC1(CCC2(OCCO2)CC1)O | C18H23N3O3
reactant | triethylamine | 35.7 mmol, 4.98 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 0.15 equivalent | C(C)OCC(=O)Cl | C4H7ClO2
reactant | triethylamine | 97.4 mmol, 13.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 8-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}-1,4-dioxaspiro[4.5]decan-8-ol | 2.50 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCC2(OCCO2)CC1)O | C22H27N3O4
